US07750155B2
To a solution of (2E)-3-[5-({(3R)-1-[2-(2-chlorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (95 mg) in EtOH (1 mL) was added a 2N—HCl solution in EtOH (0.5 mL) and the mixture was stirred at 20-25° C. for 2 hours. After removal of EtOH by evaporation, IPE (2 mL) was added to the mixture to give a solid. The solid was collected by filtration and dried under reduced pressure to give (2E)-3-[5-({(3R)-1-[2-(2-chlorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-hydroxyacrylamide dihydrochloride (86 mg).

reactant | (2E)-3-[5-({(3R)-1-[2-(2-chlorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 95 mg | ClC1=C(C=CC=C1)CCN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NOC1OCCCC1 | C24H30ClN5O3
reactant | HCl | Cl | ClH
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | (2E)-3-[5-({(3R)-1-[2-(2-chlorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-hydroxyacrylamide dihydrochloride | 86 mg | Cl.Cl.ClC1=C(C=CC=C1)CCN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NO | InChI=1S/C19H22ClN5O2.2ClH/c20-17-4-2-1-3-14(17)7-9-25-10-8-16(13-25)23-18-12-21-15(11-22-18)5-6-19(26)24-27;;/h1-6,11-12,16,27H,7-10,13H2,(H,22,23)(H,24,26);2*1H/b6-5+;;/t16-;;/m1../s1
